US07271262B2
1C. (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-nitro-phenyl)-methanone
n-BuLi (22 mL, 2.5 M in Hexane, 55.0 mmol) was added dropwise to a solution of 5-Bromo-4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine (15.0 g, 50.0 mmol) in THF (200 mL) at −78° C. After 1 h the resulting solution was added via cannula to a solution of 3-Nitrobenzoyl Chloride in THF (100 mL) at −78° C. After 30 min the reaction was quenched with saturated aqueous NH4Cl and warmed to room temperature. The layers were separated and the aqueous layer was extracted with EtOAc (1×200 mL). The THF was concentrated off under reduced pressure and the resulting organic layer was diluted with EtOAc. The organic layer was washed with 1N NaOH (2×) and water (1×) then dried over Na2SO4 and concentrated. Recrystallization from EtOAc afforded the title compound as a white solid (12.1 g, 65%). MS: 371.2/373.1 (MH+); HPLC Rf: 6.59 min. (HPLC method 4).

reactant | n-BuLi | 55.0 mmol, 2.5 M, 22 mL | [Li]CCCC
reactant | 5-Bromo-4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine | 50.0 mmol, 15.0 g | BrC1=CN(C=2N=CN=C(C21)Cl)C2CCCC2 | C11H11BrClN3
reactant | 3-Nitrobenzoyl Chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-nitro-phenyl)-methanone | 12.1 g, 65% | ClC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C2CCCC2 | C18H15ClN4O3
